US06579879B2
A mixture of 3-methoxy-6-(indole-2-sulfenyl)-pyridazine) (2.92 mmol, 750 mg), N-chloro-succinimide (2.92 mmol, 390 mg) and methanol (15 mL) was stirred overnight at room temperature. Excess methanol was removed and the residue was extracted with EtOAc (3×10 mL). The EtOAc extract was collected, dried, filtered and evaporated to dryness to obtain a residue, which was purified by silica gel chromatography (eluent: hexanes:EtOAc::19:5) to yield 3-methoxy-6-(3-chloro-indole-2-sulfenyl)-pyridazine (40%, 338 mg).

reactant | 3-methoxy-6-(indole-2-sulfenyl)-pyridazine | COC=1N=NC(=CC1)SC=1NC2=CC=CC=C2C1 | C13H11N3OS
reactant | N-chloro-succinimide | 2.92 mmol, 390 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | methanol | 15 mL | CO | CH4O
product | 3-methoxy-6-(3-chloro-indole-2-sulfenyl)-pyridazine | 338 mg, 40% | COC=1N=NC(=CC1)SC=1NC2=CC=CC=C2C1Cl | C13H10ClN3OS
